US09216980B2
Step 4: 3-(1-Methyl-1H-pyrazol-4-yl)-6-[4-(piperidin-4-yloxy)-pyridin-3-yl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A mixture of 4-{3-[3(1-methyl-1H-pyrazol-4-yl)-9-(2-trimethylsilanylethoxy methyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-yl]-pyridin-4-yloxy}-piperidine-1-carboxylic acid tert-butyl ester (0.1 g, 0.15 mmol) in TBAF (1N in THF, 10 mL) was heated at 50° C. for 19 h. The cooled reaction mixture was partitioned between water and ethyl acetate. The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo, to afford a residue which was purified by flash chromatography (silica, 12 g column, ISCO, 0-10% methanol in DCM). This resultant residue was dissolved in DCM (5 mL) and TFA (1 mL) and left to stir for 30 minutes. The mixture was diluted with DCM and water. The aqueous layer was separated, evaporated and the resultant residue was loaded onto an SCX-2 cartridge and washed with methanol and 2M ammonia in methanol. The combined basic fraction was purified by HPLC (C18 column, eluting with 5-60% MeCN in water (with 20 mM triethylamine) over 20 minutes) to afford the title compound as a white solid (25 mg, 39%). 1H NMR (MeOD, 400 MHz): 8.97 (s, 1H), 8.83-8.78 (m, 2H), 8.72 (s, 1H), 8.58 (s, 1H), 8.43 (d, J=5.9 Hz, 1H), 8.12 (s, 1H), 7.98 (s, 1H), 7.28 (d, J=6.0 Hz, 1H), 4.91-4.80 (m, 1H), 3.98 (s, 3H), 3.01-2.91 (m, 2H), 2.80-2.70 (m, 2H), 2.11-2.00 (m, 2H), 1.83-1.73 (m, 2H) plus 2 exchangeables not observed. LCMS (Method A): RT=4.0 min, M+H+=426.

reactant | 4-{3-[3(1-methyl-1H-pyrazol-4-yl)-9-(2-trimethylsilanylethoxy methyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-yl]-pyridin-4-yloxy}-piperidine-1-carboxylic acid tert-butyl ester | 0.15 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=NC=C1)C1=CC=2C3=C(N(C2C=N1)COCC[Si](C)(C)C)N=CC(=C3)C=3C=NN(C3)C | C35H45N7O4Si
solvent | TBAF | 1N, 10 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-(1-Methyl-1H-pyrazol-4-yl)-6-[4-(piperidin-4-yloxy)-pyridin-3-yl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 25 mg, 39% | CN1N=CC(=C1)C1=CC2=C(NC3=C2C=C(N=C3)C=3C=NC=CC3OC3CCNCC3)N=C1 | C24H23N7O
